US06573263B2
100 mg (0.19 mmol) of 5-{[7-(1-acetyl-4-phenylbutyl)-5-methyl-4-oxo-3,4-dihydro-imidazo[5,1-f][1,2,4]triazin-2-yl]methyl}-N,2-dimethylbenzylsulphonamide are reacted analogously to Example 12 with 7.2 mg (0.19 mmol) of sodium borohydride to give 5-({7-[1-(1-hydroxyethyl)-4-phenylbutyl]-5-methyl-4-oxo-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-2-yl}methyl)-N,2-dimethylbenzylsulphonamide.

reactant | 5-{[7-(1-acetyl-4-phenylbutyl)-5-methyl-4-oxo-3,4-dihydro-imidazo[5,1-f][1,2,4]triazin-2-yl]methyl}-N,2-dimethylbenzylsulphonamide | 0.19 mmol, 100 mg | C(C)(=O)C(CCCC1=CC=CC=C1)C1=NC(=C2C(NC(=NN21)CC=2C=CC(=C(CS(=O)(=O)NC)C2)C)=O)C | C28H33N5O4S
reactant | sodium borohydride | 0.19 mmol, 7.2 mg | [BH4-].[Na+]
product | 5-({7-[1-(1-hydroxyethyl)-4-phenylbutyl]-5-methyl-4-oxo-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-2-yl}methyl)-N,2-dimethylbenzylsulphonamide | OC(C)C(CCCC1=CC=CC=C1)C1=NC(=C2C(NC(=NN21)CC=2C=CC(=C(CS(=O)(=O)NC)C2)C)=O)C | C28H35N5O4S
